US04277630
The activity and selectivity of the catalyst in Example I for producing phenol from benzoic acid were measured in a fixed bed reactor. The reactorwas a jacketed 1'×1" dia. 316 stainless steel tube. Boiling Dowtherm was used in the jacket for temperature control. The feed was prepared by metering water through a heater at reactor pressure, passing the steam so produced through a benzoic acid saturator maintained at a temperature required to give the desired benzoic acid/water ratio, and then mixing thestream with the desired amount of air. The reactor contained 60 g of catalyst. Operating conditions and results are given in Table I.

reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | water | O | H2O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
